US07691843B2
To a solution of (+)-trans-1-(3,4-dimethoxy-5-propylbenzoyl)-3-ethylazetidine-2-carboxylic acid tert-butyl ester (160 mg, 0.41 mmol, 1 eq.) in dry DCM (3.5 mL) at room temperature was added TFA (1.5 mL). The resulting reaction mixture stirred at room temperature for 2 h. The solvent was removed in vacuo and dried under high vacuum. The residue was dissolved in ether and washed with 2% NaOH solution. The aqueous layer was acidified with 1 M HCl and extracted with EtOAc. The organic layer dried over Na2SO4, filtered, and concentrated in vacuo to afford (+)-trans-1-(3,4-dimethoxy-5-propylbenzoyl)-3-ethylazetidine-2-carboxylic acid in 80% yield, which was used without further purification. ESMS: m/z 336.3 [M+H].

reactant | (+)-trans-1-(3,4-dimethoxy-5-propylbenzoyl)-3-ethylazetidine-2-carboxylic acid tert-butyl ester | 0.41 mmol, 160 mg, 1 eq. | C(C)(C)(C)OC(=O)[C@@H]1N(C[C@H]1CC)C(C1=CC(=C(C(=C1)CCC)OC)OC)=O | C22H33NO5
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3.5 mL | C(Cl)Cl | CH2Cl2
product | (+)-trans-1-(3,4-dimethoxy-5-propylbenzoyl)-3-ethylazetidine-2-carboxylic acid | 80% yield | COC=1C=C(C(=O)N2[C@H]([C@@H](C2)CC)C(=O)O)C=C(C1OC)CCC | C18H25NO5
